US07294635B2
To a solution of [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-carbamic acid tert-butyl ester (0.36 g, 0.9 mmol) in dry DMF (9 mL) was added cesium carbonate (1.04 g, 3.19 mmol) followed by neat methyl iodide (0.064 mL, 1.03 mmol). The mixture was stirred at room temperature for 3.5 hr, extracted into ethyl acetate (150 mL), washed with water (2×50 mL) and brine (50 mL), dried over sodium sulfate, filtered, concentrated in vacuo and dried to give 0.34 g (93%) of pure [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester. RP-HPLC: 5.89 min; ES-MS (M+H)+=414.0; 1H-NMR (DMSO-d6) δ (ppm): 1.33 (s, 9), 3.20 (s, 3), 6.75 (d, 1), 7.52 (d, 1), 7.80 (d, 2), 7.83 (d, 1), 7.93 (d, 1), 8.35 (d, 2).

reactant | [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-carbamic acid tert-butyl ester | 0.9 mmol, 0.36 g | C(C)(C)(C)OC(NC=1C=C2C=CN(C(C2=CC1F)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C20H18FN3O5
reactant | cesium carbonate | 3.19 mmol, 1.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 1.03 mmol, 0.064 mL | CI | CH3I
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | [7-Fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl]-methyl-carbamic acid tert-butyl ester | 0.34 g, 93% | C(C)(C)(C)OC(N(C)C=1C=C2C=CN(C(C2=CC1F)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H20FN3O5
